US04876261
m-Nitrobenzaldehyde (1.8 g) was added to a suspension of α-(aminomethyl)-3,4-dimethoxybenzyl alcohol hydrochloride in 25 ml methanol, triethylamine (2.8 ml) was further added dropwise at room temperature with stirring, and the resulting solution was heated under reflux for 30 minutes. After cooling, sodium borohydride (1.45 g) was added in small portions with stirring under ice cooling, and the mixture was stirred at room temperature for one hour and concentrated. The residue was treated with chloroform and water, and the chloroform layer was collected, washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was recrystallized from ether/n-hexane, affording 3.3 g of pure α-[(3-nitrobenzylamino)methyl]-3,4-dimethoxybenzyl alcohol, m.p. 105°-107° C.

reactant | m-Nitrobenzaldehyde | 1.8 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | α-(aminomethyl)-3,4-dimethoxybenzyl alcohol hydrochloride | Cl.NCC(C1=CC(=C(C=C1)OC)OC)O
reactant | sodium borohydride | 1.45 g | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | α-[(3-nitrobenzylamino)methyl]-3,4-dimethoxybenzyl alcohol | 3.3 g | [N+](=O)([O-])C=1C=C(CNCC(C2=CC(=C(C=C2)OC)OC)O)C=CC1 | C17H20N2O5
